US06897208B2
A stirred solution of 1,1-dimethoxy-but-3-en-2-one in water (300 mL) was treated dropwise with hydrazine hydrate (21 ml). After standing at room temperature overnight the reaction mixture was treated with sodium chloride (108 g) and the mixture was then extracted with methyl-t-butylether (200 mL then 100 mL). The combined extracts were dried with magnesium sulfate and then evaporated to give 1H-pyrazol-3-carbaldehyde dimethyl acetal as a light brown oil (18.47 g).

reactant | 1,1-dimethoxy-but-3-en-2-one | COC(C(C=C)=O)OC | C6H10O3
reactant | hydrazine hydrate | 21 ml | O.NN
reactant | sodium chloride | 108 g | [Cl-].[Na+]
solvent | water | 300 mL | O | H2O
product | 1H-pyrazol-3-carbaldehyde dimethyl acetal | 18.47 g | COC(C1=NNC=C1)OC | C6H10N2O2
